US07696223B2
a) 3,7-Dichloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (270 mg, 0.956 mmol), NCS (269 mg, 2.01 mmol) and BzOOBz (12 mg, 0.048 mmol) in carbontetrachloride (4 mL) was refluxed for 30 min. Then the reaction was cooled and concentrated, the resulting mixture was purified by column to give the desired product (173 mg). The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=11.8 (s, 1H), 7.6-7.3 (m, 6H), 4.52 (q, 2H, J=6.8 Hz), 1.47 (t, 3H, J=6.8 Hz).

reactant | 4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.956 mmol, 270 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)C2=CC=CC=C2)O | C16H14N2O3
reactant | NCS | 2.01 mmol, 269 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | BzOOBz | 0.048 mmol, 12 mg | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
reactant | carbontetrachloride | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,7-Dichloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 173 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2Cl)C2=CC=CC=C2)O | C16H12Cl2N2O3
